US09056859B2
A solution of diethyl (2-bromo-4-nitrophenyl)propanedioate (5.6 g, 17 mmol) in 120 mL of methanol and 100 mL of water was added KOH (2.8 g, 50 mmol), and the mixture was heated to 70° C. for 3.5 hours. The reaction was cooled to ambient temperature, distilled off methanol under reduce pressure and adjusted pH to 2 with conc. HCl. Extracted with EtOAc and the organic layers were washed with water, brine and dried over anhydrous sodium sulfate, concentrated to get (2-bromo-4-nitrophenyl)acetic acid. 1H-NMR (300 MHz, CDCl3) δ ppm 8.39 (s, 1H), 8.07˜8.11 (m, 1H), 7.43 (d, J=8.3 Hz, 1H), 3.88 (s, 2H).

reactant | diethyl (2-bromo-4-nitrophenyl)propanedioate | 17 mmol, 5.6 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C13H14BrNO6
reactant | KOH | 50 mmol, 2.8 g | [OH-].[K+]
solvent | methanol | 120 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
product | (2-bromo-4-nitrophenyl)acetic acid | BrC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6BrNO4
